US07414052B2
A solution of (2RS,3RS)-3-(2,3-dihydro-4H-1,4-benzoxazin-4-yl)-2-hydroxy-N-methyl-3 phenylpropanamide (216 mg, 0.692 mmol) in dry tetrahydrofuran (3 mL) under nitrogen was treated dropwise with a solution of borane (1.0 M in tetrahydrofuran, 3.50 mL, 3.50 mmol), and the resulting solution was stirred at 70° C. for 2 hours. After cooling in an ice bath, the reaction mixture was treated with a 2N aqueous solution of hydrochloric acid (1 mL), and the resulting mixture was heated at 50° C. for 30 minutes. Tetrahydrofuran was removed under reduced pressure, and the aqueous residue was dissolved in water (5 mL) and washed with diethyl ether (10 mL). The aqueous layer was made alkaline with solid potassium carbonate and extracted with ethyl acetate (2×10 mL). The combined organic extracts were washed with brine, dried (sodium sulfate) and concentrated under reduced pressure to yield 202 mg (98%) (1RS,2SR)-1-(2,3-dihydro-4H-1,4-benzoxazin-4-yl)-3-(methylamino)-1-phenylpropan-2-ol as a colorless oil. This oil was dissolved in ethanol (1 mL) and treated with a solution of hydrochloric acid (0.5 mL, 4M in 1,4-dioxane). All volatiles were again removed under reduced pressure. The resulting white solid was recrystallized (minimal warm ethanol/ethyl ether/−20° C.) to yield 105 mg (41%) (1RS,2SR)-1-(2,3-dihydro-4H-1,4-benzoxazin-4-yl)-3-(methylamino)-1-phenylpropan-2-ol di hydrochloride as a white solid. MS (ESI) m/z 299.0 ([M+H]+); HRMS: calcd for C18H22N2O2+H+, 299.17540; found (ESI, [M+H]+), 299.1755.

reactant | (2RS,3RS)-3-(2,3-dihydro-4H-1,4-benzoxazin-4-yl)-2-hydroxy-N-methyl-3 phenylpropanamide | 0.692 mmol, 216 mg | O1CCN(C2=C1C=CC=C2)C(C(C(=O)NC)O)C2=CC=CC=C2 | C18H20N2O3
reactant | borane | 3.50 mmol, 1.0 M, 3.50 mL | B | BH3
reactant | hydrochloric acid | 1 mL | Cl | ClH
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | (1RS,2SR)-1-(2,3-dihydro-4H-1,4-benzoxazin-4-yl)-3-(methylamino)-1-phenylpropan-2-ol | 202 mg, 98% | O1CCN(C2=C1C=CC=C2)C(C(CNC)O)C2=CC=CC=C2 | C18H22N2O2
